US04971990
2-(5-Fluoro-2-methoxyphenoxy)acetaldehyde
2-(5-Fluoro-2-methoxyphenoxy)acetaldehyde diethylacetal A suspension of 10.8 g of 5-fluoro-2-methoxyphenol and 12.6 g of potassium carbonate in 45 ml of N,N-dimethylformamide was heated for 45 minutes at 100° C. To the reaction mixture were added 18.5 ml of chloroacetaldehyde diethylacetal and 12.7 g of potassium iodide and the reaction mixture was heated for 4 hours at 140° C. After cooling, the reaction mixture was poured into ice water and extracted with ether. The extract was washed with aqueous sodium hydroxide solution and water, dried and evaporated. The residue was chromatographed on silica gel using chloroform as an eluant to give 11.8 g of the desired compound as a colorless oil.

reactant | 2-(5-Fluoro-2-methoxyphenoxy)acetaldehyde diethylacetal | C(C)OC(COC1=C(C=CC(=C1)F)OC)OCC | C13H19FO4
reactant | 5-fluoro-2-methoxyphenol | 10.8 g | FC=1C=CC(=C(C1)O)OC | C7H7FO2
reactant | potassium carbonate | 12.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetaldehyde diethylacetal | 18.5 ml | C(C)OC(CCl)OCC | C6H13ClO2
reactant | potassium iodide | 12.7 g | [I-].[K+]
solvent | N,N-dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 2-(5-Fluoro-2-methoxyphenoxy)acetaldehyde | 11.8 g | FC=1C=CC(=C(OCC=O)C1)OC | C9H9FO3
